US05932601
In substantially the same manner as in Working Example 9, 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione was reacted with 4-bromoacetyl-5-methyl-2-phenyloxazole to obtain 5-[3-[3-methoxy-4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propyl]-2,4-oxazolidinedione as an oily product.

reactant | 5-[3-(4-hydroxy-3-methoxyphenyl)propyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1)CCCC1C(NC(O1)=O)=O)OC | C13H15NO5
reactant | 4-bromoacetyl-5-methyl-2-phenyloxazole | BrCC(=O)C=1N=C(OC1C)C1=CC=CC=C1 | C12H10BrNO2
product | 5-[3-[3-methoxy-4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propyl]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC(=O)C=1N=C(OC1C)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C25H24N2O7
